US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(3-methylisoxazol-5-yl)urea
The 4-(4-aminophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline (100 mg) synthesized in Production Example 10 and phenyl N-(3-methylisoxazol-5-yl)carbamate (81 mg) were added to toluene (5 ml), then diisopropylethylamine (0.88 ml) was added and the mixture was heated and stirred at 100° C. for 2 hours. After cooling, the precipitated crystals were filtered and washed with an ethyl acetate:toluene (1:1) mixed solvent to obtain the title compound (102 mg).

reactant | 4-(4-aminophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline | 100 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1 | C19H17N3O3
reactant | phenyl N-(3-methylisoxazol-5-yl)carbamate | 81 mg | CC1=NOC(=C1)NC(OC1=CC=CC=C1)=O | C11H10N2O3
reactant | diisopropylethylamine | 0.88 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(3-methylisoxazol-5-yl)urea | 102 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(=O)NC1=CC(=NO1)C | C24H21N5O5
